Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rash, leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old F with a history of HTN who is admitted due to
concern of cellulitis in both extremities. Pt reports swelling
L>R and erythema at the ankles. Pt with discomfort and feeling 
of
"tightness" on the left foot. Pt has had swelling and erythema 
in
the past on 2 occasions. She was previously on furosemide for
control of her hypertension which was discontinued in ___. It 
is
unclear if her episodes of edema occurred after this. Most
recently, she was given a small supply of furosemide by a
covering physician which helped. Pt denies fevers or chills. No
injury, travel, or insect or animal bites. 

In the ED, pt was afebrile and without leukocytosis. She had
erythema and edema in L ankle greater than R ankle. Pt given
doxycycline due to concern for infection. Venous duplex
ultrasound of left lower extremity was negative. 

On arrival to the floor, pt generally feels well. Provides above
history. She reports that she was not taking her two
antihypertensives for the past 2 months and restarted them two
days ago. She denies chest pain or shortness of breath. She does
not know if she has had cardiac workup with echocardiogram in 
the
past. Denies jaundice or abdominal swelling.

ROS: As above. Denies headache, lightheadedness, dizziness, sore
throat, sinus congestion, chest pain, heart palpitations,
shortness of breath, cough, nausea, vomiting, diarrhea,
constipation, urinary symptoms, muscle or joint pains, focal
numbness or tingling, skin rash. The remainder of the ROS was
negative.
 
Past Medical History:
HTN
Chronic HBV
NAFLD
 
Social History:
___
Family History:
No family history of heart disease that she knows of.
 
Physical Exam:
ADMISSION EXAM:
VS - 98.1 171/87 71 18 98 RA 
GEN - NAD, well appearing
HEENT - no scleral icterus or sublingual icterus
NECK - no LAD
CV - regular rate and rhtythm, S4 present, no murmurs
RESP - no rales
ABD - soft, nontender, nondistended
EXT - edema to upper shins L >R
SKIN - erythema at both ankles but more extensive on L, both
within bounds of marking in ED, very mild tenderness to 
palpation
at both ankles, no excess warmth
NEURO - alert and oriented x 3
PSYCH - appropriate, calm

DISCHARGE EXAM:

 
Pertinent Results:
ADMISSION LABS
--------------
___ 05:20PM BLOOD WBC-7.5 RBC-4.56 Hgb-12.4 Hct-39.6 MCV-87 
MCH-27.2 MCHC-31.3* RDW-12.5 RDWSD-39.3 Plt ___
___ 05:20PM BLOOD Neuts-64.7 ___ Monos-7.2 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-4.84 AbsLymp-1.95 AbsMono-0.54 
AbsEos-0.11 AbsBaso-0.04
___ 05:20PM BLOOD Glucose-94 UreaN-11 Creat-0.6 Na-143 
K-4.3 Cl-104 HCO3-27 AnGap-12
___ 05:20PM BLOOD ALT-16 AST-16 AlkPhos-79 TotBili-0.3
___ 05:20PM BLOOD proBNP-285*
___ 05:48PM BLOOD Lactate-1.2

IMAGING
-------
TTE:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Moderate 
(2+) mitral regurgitation is seen. The tricuspid valve leaflets 
are mildly thickened. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.   

EKG: Sinus rhythm. Normal ECG. No previous tracing available for 
comparison. 

___ ___: 
No DVT within the left lower extremity.

Left foot XR ___: 
No acute fracture or dislocation of the bilateral feet.  No
cortical destruction to suggest acute osteomyelitis
radiographically. 

Ankle XR b/l ___: 
No acute fracture or dislocation of the bilateral ankles.

DISCHARGE LABS
--------------
___ 12:49PM BLOOD WBC-5.1 RBC-4.72 Hgb-13.0 Hct-40.4 MCV-86 
MCH-27.5 MCHC-32.2 RDW-12.3 RDWSD-38.7 Plt ___
___ 12:49PM BLOOD Glucose-113* UreaN-16 Creat-0.6 Na-144 
K-4.2 Cl-104 HCO3-25 AnGap-15
___ 12:49PM BLOOD Calcium-9.1 Phos-3.8 Mg-2.___ year old female with chronic HBV and hypertension who is 
admitted due to swelling of left lower extremity edema with 
associated erythema over malleolus in the left greater than 
right. 

# Bilateral lower extremity edema 
# Rash: skin marked, antibiotics stopped on admission given no 
leukocytosis, fever, or significant warmth of areas on ankles.  
Lower extremity ultrasounds were unremarkable for DVT.  X-ray 
imaging of feet and ankles were unremarkable. BNP mildly 
elevated.  LFTs normal.  She recently stopped taking her 
antihypertensives.  No fevers were noted over the course of her 
admission.  Rash has been regressing off of antibiotics.  
Differential includes stasis dermatitis, chronic venous stasis 
changes, hematoma, and less likely cellulitis.  TTE showed no 
overt heart failure mild pulmonary hypertension.  Pain and 
extent of rash has been improving.  Patient will follow up with 
her PCP within ___ week of discharge.

# Hypertension: on high doses of antihypertensives, and states 
she has not been taking these for last two months, just 
restarted.  It is possible her lower extremity edema has 
worsened in the setting of worsened hypertension, and some 
stiffness of the left ventricle.  Her home doses or lisinopril 
and metoprolol succinate were restarted, and should be continued 
as an outpatient.  She will need continued close monitoring of 
her blood pressure as an outpatient.

# Chronic HBV: does not exhibit stigmata of advanced fibrosis, 
cirrhosis.  LFTs were normal.

TRANSITIONS OF CARE
-------------------
# Follow-up: She will need continued close monitoring of her 
blood pressure as an outpatient.  Patient will follow up with 
her PCP within ___ week of discharge.  Rash should be monitored 
for resolution.

# Code status: full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 200 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 40 mg PO DAILY  
2.  Metoprolol Succinate XL 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Leg rash
Hypertension
Mild pulmonary hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent visit to 
___.  You came for further evaluation of a rash on your legs.  
Further evaluation showed this was likely not due to an 
infection, and more likely related to swelling in your legs that 
causes something called venous stasis and a resultant 
inflammation of your skin.  This should resolve over time, and 
with resuming your blood pressure medications.

It is important that you continue to take all of your 
medications as prescribed and follow up with all appointments 
listed below.

Good luck!
 
Followup Instructions:
___